US07338951B2
Pentafluoropyridine (3.4 g; 20 mmol) was dissolved in dichloromethane (50 mL) and chilled in an ice bath. To the solution was added hydrazine (640 mg; 22 mmol) and it was stirred overnight. The solvent was evaporated, and the residue was dissolved in dichloromethane (50 mL) and washed with a 10% sodium carbonate solution (5 mL). It was dried over magnesium sulfate, and evaporated, to give crude 2,3,5,6-tetrafluoro-pyridin-4-yl-hydrazine. The crude product was then dissolved in ethanol. To the solution was added one drop of acetic acid, and m-tolylaldehyde (1.45 g; 12 mmol) and it was heated at 60° C. overnight. The resulting precipitate was filtered and dried to give N-(3-methyl-benzylidene)-N′-(2,3,5,6-tetrafluoro-pyridin-4-yl)-hydrazine (2.2 g).

reactant | Pentafluoropyridine | 20 mmol, 3.4 g | FC1=C(C(=C(C(=N1)F)F)F)F | C5F5N
reactant | hydrazine | 22 mmol, 640 mg | NN | H4N2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2,3,5,6-tetrafluoro-pyridin-4-yl-hydrazine | FC1=NC(=C(C(=C1F)NN)F)F | C5H3F4N3
